Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Flexeril / Aspirin / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F with PMHx of DM, HTN, HL who presents today with left 
lower extremity swelling and erythema that has persisted for 
approximately one month. Pt reports that was treated with a 
course of Keflex/Bactrim for similar symptoms at the end of 
___ and did have improvement in swelling/erythema.  However, 
over the last ___ days she has had worsening left leg pain and 
swelling.  She has baseline lower extremity edema that is worse 
at the end of the day and improves by am and wears TEDs while at 
work.  She reported 2 days of night sweats, chills and decreased 
appetite.  She denied any N/V/D, constipation, abd pain, chest 
pain, shortness of breath or other rashs.
.
Initial VS on arrival to the ED: T 97.3 BP 152/81 HR 64 RR 16 
Sats 100%. Pt had a left lower extremity u/s that was negative 
for DVT and was given Unasyn 3grams IV prior to transfer to the 
___.  
.

 
Past Medical History:
Diabetes type-II  
Hypertension  
Hyperlipidemia  
H/o dermatophytosis  
H/o onychomycosis  
Chronic abd pain: on lactulose and PPI, colonoscopy in ___ wnl  

H/o H. pylori  
LBP: Likely ___ to muscule spasms  
TMJ  
Depression  
S/p L cataract extraction: ___  
 
Social History:
___
Family History:
Mother: hypertension, arthritis, congestive heart failure
Father: died secondary to to complications of MI
Children: patient does not know of health problems among her 
children
 
Physical Exam:
VS: T 97 BP 129/78 HR 56 RR 18 Sats 97% on RA
GEN: NAD, comfortable
HEENT: NCAT, EOMI, no LAD, MMM
CV: RRR no m/r/g
RESP: CTAB no wheezes/rales apprec.
ABD: mildly distended, NTTP, NABS
EXTR: trace edema on RLE and LLE with 2+ pitting edema tracking 
to knee, area of warmth and TTP tracks anteriorly, outlined with 
marker and not extending.
No fluctuance appreciated.
 
Pertinent Results:
LABS:
UCG: Negative 
.
Lactate:1.7
.
141  104  13  BS 122   AGap=13 
-------------
4.2  28  0.7  
. 
WBC 5.4 Hgb 11.8 Hct 36 Plts 338 
 N:47.7 L:46.0 M:4.3 E:1.2 Bas:0.9 
.
Left Lower extremity U/S ___: negative for DVT

 
Brief Hospital Course:
1. Cellulitis:  Pt has had recurrent Left lower extremity 
cellulitis of unclear precipitant that began in ___.  
She was last treated in ___ and presented with recurrent 
LLE pain, redness, swelling and night sweats.  The left shin had 
mild cellulitic changes and tenderness to palpation.  She was 
treated empirically with Vanc/Unasyn for 48hrs. The erythema and 
pain improved significantly with antibiotics and elevation.  Pt 
was transitioned to oral Bactrim/Keflex with the plan of 
completing a 10 day course. There was some evidence of tinea 
pedis and pt was started on Clotrimazole topically with plan for 
podiatry follow up.  Pt was given instructions about foot care 
and avoiding open toe shoes in an effort to prevent recurrent 
episodes of cellulitis.  

2. Hypertension: There was some confusion about her medication 
regimen. Pt had continued on Amlodipine despite the fact that 
her PCP had stopped it out of concern that it could be 
contributing to the lower extremity edema.  The medication list 
was reconciled with family, patient and PCP.  She was continued 
on Losartan at 25mg daily and amlodipine was stopped.  She was 
started on Hydrochlorothiazide 25mg daily and will be seen in 
follow up next week. 

Otherwise, pt was continued on her Metformin and Pravastatin 
home regimens.
 
Medications on Admission:
Pravastatin 60mg daily
Colace 100mg BID
Amlodipine 10mg daily
Losartan 25mg daily
Metformin 500mg daily (had not been taking recently as ran out)
 
Discharge Medications:
1. Pravastatin 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. Losartan 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Clotrimazole 1 % Cream Sig: One (1) Appl Topical BID (2 times 
a day) as needed for feet tinea.
Disp:*qs tube* Refills:*0*
4. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 7 days.
Disp:*14 Tablet(s)* Refills:*0*
5. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours) for 7 days.
Disp:*21 Capsule(s)* Refills:*0*
6. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).
Disp:*30 Capsule(s)* Refills:*2*
7. Metformin 500 mg Tablet Extended Rel 24 hr Sig: One (1) 
Tablet Extended Rel 24 hr PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Cellulitis 
2. Diabetes Type II
3. Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with left lower extremity cellulitis and 
swelling.  You have been treated with antibiotics and will need 
to continue taking Bactrim & Keflex for another 7 days.  We have 
noted a fungal rash on your feet that may be contributing to the 
recurrent cellulitis.  We recommend using topical clotrimazole 
twice daily for ten days to try and resolve the itching.  Dr. 
___ will help to coordinate follow up with Podiatry and 
recommends that you continue to use the compression stockings as 
much as possible.  

Please note that we have STOPPED the amlodipine as it can 
contribute to lower extremity swelling.
START Hydrochlorothiazide 25mg daily which is mild diuretic that 
will help control blood pressure and decrease swelling.
START Clotrimazole cream applied topically twice daily

.

 
Followup Instructions:
___